US05082939
(RS)-3-[3-[[2-(3,4-Dimethoxyphenyl)ethyl]amino]-2-hydroxypropoxy]-6-benzylidenehydrazinopyridazine dihydrochloride
To a solution of (RS)-3-[3-[[2-(3,4-Dimethoxyphenyl)ethyl)amino]-2-hydroxypropoxy]-6-hydrazinopyridazine dihydrochloride (2 g) in 40 ml of 90% aqueous methanol, (1 ml) of benzaldehyde was added. Stirring was continued at room temperature for two hours, then the solvent was evaporated under vacuum and the residue was triturated with isopropanol to afford the title compound in 8% yield. m.p. 207°-210° C. (with decomp).

reactant | (RS)-3-[3-[[2-(3,4-Dimethoxyphenyl)ethyl)amino]-2-hydroxypropoxy]-6-hydrazinopyridazine dihydrochloride | 2 g | Cl.Cl.COC=1C=C(C=CC1OC)CCNCC(COC=1N=NC(=CC1)NN)O
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
solvent | methanol | 40 ml | CO | CH4O
product | (RS)-3-[3-[[2-(3,4-Dimethoxyphenyl)ethyl]amino]-2-hydroxypropoxy]-6-benzylidenehydrazinopyridazine dihydrochloride | 8% yield | Cl.Cl.COC=1C=C(C=CC1OC)CCNCC(COC=1N=NC(=CC1)NN=CC1=CC=CC=C1)O | InChI=1S/C24H29N5O4.2ClH/c1-31-21-9-8-18(14-22(21)32-2)12-13-25-16-20(30)17-33-24-11-10-23(28-29-24)27-26-15-19-6-4-3-5-7-19;;/h3-11,14-15,20,25,30H,12-13,16-17H2,1-2H3,(H,27,28);2*1H
